US07354942B2
3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-(pent-3-yn-2-yl)benzamide
Prepared from 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid and pent-3-yn-2-amine using a similar procedure as described for the preparation of Example 20. HRMS ES calculated for C29H35N3O2: 458.2802, found: 458.2813.

reactant | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H36N2O5
reactant | pent-3-yn-2-amine | CC(C#CC)N | C5H9N
product | 3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-(pent-3-yn-2-yl)benzamide | NC(COCC=1C=C(C(=O)NC(C)C#CC)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H35N3O2
